US05026707
Preparation of 2-Piperazinyl-6,7-dichloro-1,2,3,4-tetrahydronaphthalene dihydrochloride
A mixture consisting of 6,7-dichloro-2-tetralone (4.30 g), piperazine (3.44 g), and 4A molecular sieves (4 g) 100 ml of toluene was stirred overnight under nitrogen and warmed briefly. The sieves were filtered off, and the filtrate was freed of solvent on an evaporator. Seventy-five ml of THF and 6 ml of methanol were added to the residue. The solution was cooled in an ice bath under nitrogen, and 1.24 g of sodium cyanoborohydride was added. Small amounts of gaseous HCl were added periodically until the solution remained acidic. The solution was stirred overnight at ambient temperature, the solvents were evaporated, and the residue was dissolved in dilute HCl. The acidic solution was extracted with three portions of ether and then made basic with sodium hydroxide. The oil which separated was extracted with ether, and the ether solution was dried (Na2SO4). The after evaporation of the ether was dissolved in ethanol, and excess anhydrous HCl was added. The crystalline solid isolated from the ethanol melted at about 272°-275° C. After recrystallization from ethanol there was obtained 1.1 g of the title compound. m.p. 278°-282° C.

reactant | 6,7-dichloro-2-tetralone | 4.30 g | ClC=1C=C2CCC(CC2=CC1Cl)=O | C10H8Cl2O
reactant | piperazine | 3.44 g | N1CCNCC1 | C4H10N2
solvent | toluene | 100 ml, 4 g | C1(=CC=CC=C1)C | C7H8
product | 2-Piperazinyl-6,7-dichloro-1,2,3,4-tetrahydronaphthalene dihydrochloride | 1.1 g | Cl.Cl.N1(CCNCC1)C1CC2=CC(=C(C=C2CC1)Cl)Cl | InChI=1S/C14H18Cl2N2.2ClH/c15-13-8-10-1-2-12(7-11(10)9-14(13)16)18-5-3-17-4-6-18;;/h8-9,12,17H,1-7H2;2*1H
